US05011849
4.3 g (12.37 mmol) of t-butyl [2-(5-phenyl-4-thiazolecarboxamido)ethyl]carbamate were dissolved in 10 ml of methylene chloride, treated with 5.0 ml of trifluoro-acetic acid and stirred at 20° for 16 hours and at 60° for 1 hour. Subsequently, the mixture was concentrated under reduced pressure. The residue was dissolved in 10 ml of ethanol, treated with 3 ml of 17.5% (w/v) ethanolic hydro-chloric acid and evaporated. The residue was recrystallized from methanol, whereby 3.3 g (94%) of N-(2-aminoethyl)-5-phenyl-4-thiazolecarboxamide hydrochloride were obtained as white crystals, melting point 243°-245°.

reactant | t-butyl [2-(5-phenyl-4-thiazolecarboxamido)ethyl]carbamate | 12.37 mmol, 4.3 g | C1(=CC=CC=C1)C1=C(N=CS1)C(=O)NCCNC(OC(C)(C)C)=O | C17H21N3O3S
reactant | trifluoro-acetic acid | 5.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(2-aminoethyl)-5-phenyl-4-thiazolecarboxamide hydrochloride | 3.3 g, 94% | Cl.NCCNC(=O)C=1N=CSC1C1=CC=CC=C1 | InChI=1S/C12H13N3OS.ClH/c13-6-7-14-12(16)10-11(17-8-15-10)9-4-2-1-3-5-9;/h1-5,8H,6-7,13H2,(H,14,16);1H
